US08168666B2
d) Preparation of 5-hydroxypent-2-yl acetate
10% palladium-active carbon (48 mg) was added to a mixed solution of 5-benzyloxypent-2-yl acetate (419 mg, 1.78 mmol) in methanol (1.86 mL) in an ice bath in an argon atmosphere, followed by stirring at room temperature in a hydrogen atmosphere. After completion of the reaction, filtration was carried out and the filtrate was concentrated under reduced pressure. 257 mg of the title compound (yield: 87%) was obtained as a colorless oil.

reactant | 5-benzyloxypent-2-yl acetate | 1.78 mmol, 419 mg | C(C)(=O)OC(C)CCCOCC1=CC=CC=C1 | C14H20O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1.86 mL | CO | CH4O
catalyst | palladium | 48 mg | [Pd] | Pd
product | 5-hydroxypent-2-yl acetate | 257 mg, yield: 87% | C(C)(=O)OC(C)CCCO | C7H14O3
